US05236815
1.a. Preparation of 1-(2-sulphonatobenzoyl)-5-nitroindazole trimethylamine salt (Compound I-1)
To a suspension of 179.5 g (1.1 mole) of 5-nitroindazole and 184 g (1 mole) of o-sulphobenzoic acid anhydride in 2000 ml of dry acetone were added dropwise whilst stirring 153 ml (1.1 mole) of triethylamine at reflux temperature. Then the suspension was refluxed for another 6 hours. The precipitate was filtered off at room temperature, washed with acetone and dried. Yield: 323 g (72%); melting point: 210° C.; chemical structure confirmed by NMR analysis.

reactant | 5-nitroindazole | 1.1 mole, 179.5 g | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | o-sulphobenzoic acid anhydride | 1 mole, 184 g | S(=O)(=O)(O)C1=C(C(=O)OC(C2=C(C=CC=C2)S(=O)(=O)O)=O)C=CC=C1 | C14H10O9S2
reactant | triethylamine | 1.1 mole, 153 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 2000 ml | CC(=O)C | C3H6O
product | 1-(2-sulphonatobenzoyl)-5-nitroindazole trimethylamine salt | CN(C)C.S(=O)(=O)([O-])C1=C(C(=O)N2N=CC3=CC(=CC=C23)[N+](=O)[O-])C=CC=C1 | InChI=1S/C14H9N3O6S.C3H9N/c18-14(11-3-1-2-4-13(11)24(21,22)23)16-12-6-5-10(17(19)20)7-9(12)8-15-16;1-4(2)3/h1-8H,(H,21,22,23);1-3H3/p-1
